US08236954B2
1-[(3-chloro-4-nitrophenyl)methyl]-4-methylpiperazine
N-methyl piperazine (2.50 mL, 22.5 mmol) was added dropwise to a solution of 3-chloro-4-nitrobenzaldehyde (2.09 g, 11.3 mmol) and acetic acid (0.29 mL, 5.14 mmol) in toluene (11.7 mL) at room temperature. The reaction mixture was stirred for 1.5 h at room temperature before the addition of further toluene (4.4 mL) and sodium triacetoxyborohydride (3.58 g, 16.9 mmol). The reaction mixture was stirred at room temperature overnight and then quenched by the addition of MeOH (3 mL) and saturated aqueous NaHCO3 (23 mL). The reaction mixture was stirred for 30 min. The phases were separated and the aqueous layer was extracted with toluene (2×30 mL). The combined organic extracts were concentrated under reduced pressure and purified by flash column chromatography (EtOAc:MeOH:NEt3 9:1:0.1) to give the title compound (2.17 g, 71%) as an orange oil.

reactant | N-methyl piperazine | 22.5 mmol, 2.50 mL | CN1CCNCC1 | C5H12N2
reactant | 3-chloro-4-nitrobenzaldehyde | 11.3 mmol, 2.09 g | ClC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H4ClNO3
reactant | acetic acid | 5.14 mmol, 0.29 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 16.9 mmol, 3.58 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | toluene | 11.7 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4.4 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[(3-chloro-4-nitrophenyl)methyl]-4-methylpiperazine | 2.17 g, 71% | ClC=1C=C(C=CC1[N+](=O)[O-])CN1CCN(CC1)C | C12H16ClN3O2
